US04092311
Ethyl 3-[6-(p-bromophenyl)-5-methyl-3-pyridazinyl]carbazate
A mixture of 8.49 g. of 6-(p-bromophenyl)-5-methyl-3-chloropyridazine and 6.25 g. of ethyl carbazate in 100 ml. of n-butyl alcohol is prepared. This solution is stirred and heated at reflux temperature for 4 hours. The reaction mixture is cooled to room temperature and the solvent removed on a rotating evaporator. Water is added to the residue and the resulting solid filtered, washed with water, ether and dried. The product is recrystallized from ethanol to yield the product, m.p. 178°-179° C.

reactant | 6-(p-bromophenyl)-5-methyl-3-chloropyridazine | BrC1=CC=C(C=C1)C1=C(C=C(N=N1)Cl)C | C11H8BrClN2
reactant | ethyl carbazate | C(NN)(=O)OCC | C3H8N2O2
solvent | n-butyl alcohol | C(CCC)O | C4H10O
product | Ethyl 3-[6-(p-bromophenyl)-5-methyl-3-pyridazinyl]carbazate | BrC1=CC=C(C=C1)C1=C(C=C(N=N1)NNC(=O)OCC)C | C14H15BrN4O2
